US09029399B2
Preparation of the title compound 1-(4-Cyclopropyl-pyridin-3-yl)-3-(2-fluoro-3-methyl-benzo[b]thiophen-5-yl)-imidazolidin-2-one (24A)
Using analogous reagents and reaction conditions as described in Example 1 above, 1-(4-cyclopropyl-pyridin-3-yl)-imidazolidin-2-one (I-1d: 100 mg, 0.4926 mmol) was reacted with 5-bromo-2-fluoro-3-methyl-benzo[b]thiophene (I-24c: 120 mg, 0.4926 mmol), copper iodide (9.3 mg, 0.04926 mmol), trans-N,N′-dimethylcyclohexane-1,2-diamine (7.0 mg, 0.04926 mmol), potassium phosphate (313 mg, 1.4778 mmol) and 1,4-dioxane (5 ml) to afford the crude product. Purification by column chromatography on silica gel (2% methanol in chloroform) afforded 120 mg of product (66% yield).

reactant | 1-(4-cyclopropyl-pyridin-3-yl)-imidazolidin-2-one | 0.4926 mmol, 100 mg | C1(CC1)C1=C(C=NC=C1)N1C(NCC1)=O | C11H13N3O
reactant | 5-bromo-2-fluoro-3-methyl-benzo[b]thiophene | 0.4926 mmol, 120 mg | BrC1=CC2=C(SC(=C2C)F)C=C1 | C9H6BrFS
reactant | trans-N,N′-dimethylcyclohexane-1,2-diamine | 0.04926 mmol, 7.0 mg | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
reactant | potassium phosphate | 1.4778 mmol, 313 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | copper iodide | 0.04926 mmol, 9.3 mg | [Cu](I)I
solvent | 1,4-dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 1-(4-Cyclopropyl-pyridin-3-yl)-3-(2-fluoro-3-methyl-benzo[b]thiophen-5-yl)-imidazolidin-2-one | 120 mg, 66% yield | C1(CC1)C1=C(C=NC=C1)N1C(N(CC1)C1=CC2=C(SC(=C2C)F)C=C1)=O | C20H18FN3OS
